US06306860B1
Preparation of 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid
6-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester (3 g) was dissolved in methanol (30 ml) and with the addition of aqueous 1N sodium hydroxide (16 ml), the mixture was hydrolyzed at 25°C. for 2 hours. 2N hydrochloric acid was slowly added to the mixture for neutralization (pH=˜5), followed by the slow addition of excess of water to precipitate. After 2-hours stirring, the precipitate was filtered, washed with water and dried to give a desired compound of 2.63 g (yield: 91%).

reactant | 6-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | 3 g | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C20H25N5O3
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 16 ml | [OH-].[Na+]
product | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | yield: 91% | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C19H23N5O3
